US08614234B2
To a stirred solution of tert-butyl (4S)-5-(ethylamino)-4-{[(5-{4-[3-fluoro-4-({[(3-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]amino}-5-oxopentanoate (30 mg, 0.046 mmol) in 5 ml of methylene chloride was added 2 ml of TFA. The mixture was stirred at room temperature for 1 hour, and evaporated to dryness. The residue was dissolved in MeOH (3 ml), which was added dropwise into 100 ml of water with vigorous stirring. The precipitates were filtered, washed with water and dried to give (4S)-5-(ethylamino)-4-{[(5-{4-[3-fluoro-4-({[(3-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]amino}-5-oxopentanoic acid as white solid. Yield: 20 mg, 74%.

reactant | tert-butyl (4S)-5-(ethylamino)-4-{[(5-{4-[3-fluoro-4-({[(3-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]amino}-5-oxopentanoate | 0.046 mmol, 30 mg | C(C)NC([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=CNC(=C1)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)NC1=CC(=CC=C1)C)F)=O | C35H39FN6O6
reactant | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (4S)-5-(ethylamino)-4-{[(5-{4-[3-fluoro-4-({[(3-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]amino}-5-oxopentanoic acid | C(C)NC([C@H](CCC(=O)O)NC(=O)C1=CNC(=C1)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)NC1=CC(=CC=C1)C)F)=O | C31H31FN6O6
